US09334269B2
1-Benzyl-4-piperidone (1 mmol) was added dropwise to a stirred suspension of phenyl hydrazine (1 equiv.) in a solution of 7% H2SO4 (20 mL) in 1,4-dioxane (20 mL). The reaction mixture was heated at reflux for 18 h then cooled to RT. The solvent was evaporated and the residue recrystallized to afford 2-benzyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (95%).

reactant | 1-Benzyl-4-piperidone | 1 mmol | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | phenyl hydrazine | 1 equiv. | C1(=CC=CC=C1)NN | C6H8N2
reactant | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-benzyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 95% | C(C1=CC=CC=C1)N1CC2=C(NC=3C=CC=CC23)CC1 | C18H18N2
